US06268387B1
Step C: 3-[Acetyl-(3,5-dichlorophenyl)-amino]-4-methoxybenzoic acid methyl ester
A mixture of 2-acetylamino-4-methoxybenzoic acid methyl ester (9.58 g, 42.92 mmol), 1-bromo-3,5-dichlorobenzene (28.80 g, 127.48 mmol), copper iodide (2.32 g, 12.18 mmol), and sodium bicarbonate (8.72 g, 103.80 mmol) in of mesitylene (60 mL) was heated to reflux. After 7 days, the mixture was allowed to cool and was diluted with ethyl acetate (300 mL). The resulting solid was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo and the residue was chromatographed on silica gel eluting with hexane/ethyl acetate (9:1→1:1) to afford the product (11.6 g); m.p. 100-101° C. after trituration in hexane.

reactant | 2-acetylamino-4-methoxybenzoic acid methyl ester | 42.92 mmol, 9.58 g | COC(C1=C(C=C(C=C1)OC)NC(C)=O)=O | C11H13NO4
reactant | 1-bromo-3,5-dichlorobenzene | 127.48 mmol, 28.80 g | BrC1=CC(=CC(=C1)Cl)Cl | C6H3BrCl2
reactant | sodium bicarbonate | 103.80 mmol, 8.72 g | C([O-])(O)=O.[Na+]
reactant | mesitylene | 60 mL | C1(=CC(=CC(=C1)C)C)C | C9H12
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 12.18 mmol, 2.32 g | [Cu](I)I
product | 3-[Acetyl-(3,5-dichlorophenyl)-amino]-4-methoxybenzoic acid methyl ester | 11.6 g | COC(C1=CC(=C(C=C1)OC)N(C1=CC(=CC(=C1)Cl)Cl)C(C)=O)=O | C17H15Cl2NO4
